US04713383
As in Example 37, 2-(2-furyl)-5-methylthio-[1,2,4]triazolo[1,5-c]quinazoline is reacted with ammonium hydroxide (200 ml) saturated with ammonia at 0° in the stainless steel pressure vessel at 150° and 220 p.s.i. over six hours to afford 2-(2-furyl)-5-imino-5,6-dihydro[1,2,4]triazolo[1,5-c]quinazoline, mp 282°-285° after methanol recrystallization.

reactant | 2-(2-furyl)-5-methylthio-[1,2,4]triazolo[1,5-c]quinazoline | O1C(=CC=C1)C1=NN2C(=NC=3C=CC=CC3C2=N1)SC | C14H10N4OS
reactant | ammonia | N | H3N
solvent | ammonium hydroxide | 200 ml | [OH-].[NH4+]
product | 2-(2-furyl)-5-imino-5,6-dihydro[1,2,4]triazolo[1,5-c]quinazoline | O1C(=CC=C1)C1=NN2C(NC=3C=CC=CC3C2=N1)=N | C13H9N5O
